US08022062B2
Use a method similar to the General Procedure 3 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (425 mg, 1 mmol) with 2-ethynyl-pyridine (0.20 mL, 2 mmol). Purify by chromatography on silica gel eluting with isohexane/EtOAc (1:0 to 1:1 gradient over 40 min) to give 7-chloro-6-pyridin-2-ylethynyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (342 mg, 90%). MS (ES+) m/z: 379 (M+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1 mmol, 425 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 2-ethynyl-pyridine | 2 mmol, 0.20 mL | C(#C)C1=NC=CC=C1 | C7H5N
product | 7-chloro-6-pyridin-2-ylethynyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 342 mg, 90% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)C#CC1=NC=CC=C1 | C19H14ClF3N2O
